US05015661
3-(4-Iodophenyl)pyridine.
A mixture of 1.7 g (10 mmol) of 3-(4-aminophenyl)-pyridine [F. S. Tanaka et al.. J. Agric. Food Chem. 30, 957 (1982)], 17 ml of glacial acetic acid and 1.5 ml of trifluoroacetic acid was cooled in ice-water. Sodium nitrite. 0.8 g (11.4 mmol) was added in portions. After stirring for 15 minutes in ice-water and 15 minutes without cooling, 5 g of sodium iodide and 3 g of sodium acetate was added slowly with water cooling. The reaction mixture was diluted with 30 ml of water and stirred for 30 minutes. It was then partitioned between methylene chloride and 10% aqueous sodium carbonate solution. The organic phase was dried and evaporated and the residue was chromatographed over 20 g of silica gel using 10% (V/V) of ethyl acetate in methylene chloride. Crystallization from hexane yielded off-white crystals with m.p. 112°-115°.

reactant | 3-(4-aminophenyl)-pyridine | 10 mmol, 1.7 g | NC1=CC=C(C=C1)C=1C=NC=CC1 | C11H10N2
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium iodide | 5 g | [I-].[Na+]
reactant | sodium acetate | 3 g | C(C)(=O)[O-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | acetic acid | 17 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Iodophenyl)pyridine | IC1=CC=C(C=C1)C=1C=NC=CC1 | C11H8IN
